US08937087B2
To a mixture of N-[(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetyl]-N-methylglycine (205 mg) and THF (5 mL) were added oxalyl chloride (78 μL) and a catalytic amount of DMF under ice-cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. A mixture of the residue and dichloromethane (4 mL) was added to a mixture of 2-amino-4-chlorophenol (84 mg), TEA (91 μL), and dichloromethane (1 mL) under ice-cooling, followed by stirring at room temperature overnight. The reaction mixture was added to brine, followed by extraction with chloroform. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. To a mixture of the residue and toluene (5 mL) was added p-toluenesulfonic acid monohydrate (134 mg), followed by heating to reflux for 5 hours. The reaction mixture was cooled to room temperature, diluted with EtOAc, and washed with water, a saturated aqueous NaHCO3 solution, and brine in this order. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=85/15-50/50). To the purified product thus obtained was added diethyl ether. The resulting solid was collected by filtration and then washed with diethyl ether to obtain N-[(5-chloro-1,3-benzoxazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide (59 mg).

reactant | N-[(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetyl]-N-methylglycine | 205 mg | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N(CC(=O)O)C)C1 | C12H11ClN2O4S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | oxalyl chloride | 78 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[(5-chloro-1,3-benzoxazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide | 59 mg | ClC=1C=CC2=C(N=C(O2)CN(C(CN2C(SC3=C2C=C(C=C3)Cl)=O)=O)C)C1 | C18H13Cl2N3O3S
